### PR TITLE
[Merged by Bors] - feat port : Data.Finset.NatAntidiagonal

### PR DESCRIPTION
**Pull request by xroblot**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/NatAntidiagonal.lean [hunk 1]
```diff
@@ -0,0 +1,164 @@
...
+/-!
+# Antidiagonals in ℕ × ℕ as finsets
+
+This file defines the antidiagonals of ℕ × ℕ as finsets: the `n`-th antidiagonal is the finset of
+pairs `(i, j)` such that `i + j = n`. This is useful for polynomial multiplication and more
+generally for sums going from `0` to `n`.
+
+## Notes
+
+This refines files `data.list.nat_antidiagonal` and `data.multiset.nat_antidiagonal`.
```
Comment (jcommelin) [inline Mathlib/Data/Finset/NatAntidiagonal.lean:23]:
```suggestion
This refines files `Data.List.NatAntidiagonal` and `Data.Multiset.NatAntidiagonal`.
```

File: Mathlib/Data/Finset/NatAntidiagonal.lean [hunk 2]
```diff
@@ -0,0 +1,164 @@
...
+  rfl
+#align finset.nat.antidiagonal_zero Finset.Nat.antidiagonal_zero
+
+theorem antidiagonal_succ (n : ℕ) :
+    antidiagonal (n + 1) =
+      cons (0, n + 1)
+        ((antidiagonal n).map
+          (Function.Embedding.prodMap ⟨Nat.succ, Nat.succ_injective⟩ (Function.Embedding.refl _)))
+        (by simp) :=
+  by
```
Comment (jcommelin) [inline Mathlib/Data/Finset/NatAntidiagonal.lean:60]:
```suggestion
        (by simp) := by
```

File: Mathlib/Data/Finset/NatAntidiagonal.lean [hunk 3]
```diff
@@ -0,0 +1,164 @@
...
+  · rw [not_le] at h
+    simp only [not_mem_empty, iff_false_iff, not_and]
+    exact fun hn => ne_of_lt (lt_of_le_of_lt (le_self_add.trans hn.le) h)
+#align finset.nat.filter_fst_eq_antidiagonal Finset.Nat.filter_fst_eq_antidiagonal
+
+theorem filter_snd_eq_antidiagonal (n m : ℕ) :
+    filter (fun x : ℕ × ℕ => x.snd = m) (antidiagonal n) = if m ≤ n then {(n - m, m)} else ∅ :=
+  by
+  have : (fun x : ℕ × ℕ => x.snd = m) ∘ Prod.swap = fun x : ℕ × ℕ => x.fst = m :=
+    by
```
Comment (jcommelin) [inline Mathlib/Data/Finset/NatAntidiagonal.lean:136]:
```suggestion
    filter (fun x : ℕ × ℕ => x.snd = m) (antidiagonal n) = if m ≤ n then {(n - m, m)} else ∅ := by
  have : (fun x : ℕ × ℕ => x.snd = m) ∘ Prod.swap = fun x : ℕ × ℕ => x.fst = m := by
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
